US04346088
2-(5-Chloro-2,4-dimethoxyphenyl-imino)-4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1(b), from 2-(5-chloro-2,4-dimethoxyphenyl-imino)-4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide, by boiling in glacial acetic acid and stirring the residue under water after distilling off the solvent. Amorphous, glassy solid; melting point 130°-150° C.

reactant | 2-(5-chloro-2,4-dimethoxyphenyl-imino)-4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methylthiazolidin-4-ol hydrobromide | Br.ClC=1C(=CC(=C(C1)N=C1SCC(N1C)(O)C1=CC(=C(C=C1)Cl)S(N(CCC)CCC)(=O)=O)OC)OC
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-(5-Chloro-2,4-dimethoxyphenyl-imino)-4-(4-chloro-3-dipropylsulfamoylphenyl)-3-methyl-4-thiazoline hydrobromide | Br.ClC=1C(=CC(=C(C1)N=C1SC=C(N1C)C1=CC(=C(C=C1)Cl)S(N(CCC)CCC)(=O)=O)OC)OC | InChI=1S/C24H29Cl2N3O4S2.BrH/c1-6-10-29(11-7-2)35(30,31)23-12-16(8-9-17(23)25)20-15-34-24(28(20)3)27-19-13-18(26)21(32-4)14-22(19)33-5;/h8-9,12-15H,6-7,10-11H2,1-5H3;1H
